US09193720B2
To a stirred solution of (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate (0.04 g, 0.085 mmol), 2-(4-fluoro-3-methylphenyl)ethanol (0.066 g, 0.427 mmol) and Ph3P (0.067 g, 0.256 mmol) in THF (5 mL) was added DEAD (0.041 ml, 0.256 mmol) at 0° C. After 1 h, the cold bath was removed and stirred for 7 h at rt. Then, the reaction mixture was concentrated and the residue purified by prep-HPLC to afford (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluoro-3-methylphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (0.0374 g, 0.062 mmol, 72.4% yield) as glassy paste. 1H NMR (500 MHz, CDCl3) δ 7.12-7.17 (m, 2H), 7.06-7.12 (m, 2H), 6.95-7.00 (m, 3H), 6.08 (s, 1H), 4.14-4.30 (m, 4H), 3.19 (d, J=11.2 Hz, 1H), 3.09 (t, J=7.0 Hz, 2H), 2.87 (t, J=12.0 Hz, 1H), 2.61 (s, 3H), 2.30 (d, J=1.9 Hz, 3H), 2.25-2.29 (m, 1H), 2.20 (s, 3H), 2.06 (t, J=11.7 Hz, 1H), 1.52-1.58 (m, 1H), 1.33-1.42 (m, 1H), 1.26 (t, J=7.1 Hz, 3H), 1.21 (s, 9H), 1.16-1.20 (m, 1H), 1.05-1.10 (m, 1H), 0.90 (s, 3H), 0.66 (s, 3H). LCMS (M+H)=605.3.

reactant | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-hydroxyphenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.085 mmol, 0.04 g | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)O)C)C | C28H40N2O4
reactant | 2-(4-fluoro-3-methylphenyl)ethanol | 0.427 mmol, 0.066 g | FC1=C(C=C(C=C1)CCO)C | C9H11FO
reactant | Ph3P | 0.256 mmol, 0.067 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 0.256 mmol, 0.041 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-ethyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluoro-3-methylphenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 0.062 mmol, 0.0374 g, 72.4% yield | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=CC(=C(C=C1)F)C)C)C | C37H49FN2O4
